US07696193B2
6-[(3-Cyclobutyl-8-iodo-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-N-methyl-3-pyridinecarboxamide (E225)
N-Methyl-6-(8-iodo-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yloxy)-3-pyridinecarboxamide (D43) (423 mg, 1.0 mmol) was dissolved in 2.5% acetic acid in methanol (5 ml) and treated dropwise with cyclobutanone (0.11 ml, 1.5 mmol). The mixture was stirred for 30 minutes and then (polystyrylmethyl)trimethylammonium cyanoborohydride (2.0 mmol/g, 1 g, 2 mmol) was added. The reaction mixture was stirred at room temperature for 18 hours, applied to a SCX ion exchange cartridge (Varian bond-elute, 10 g) and washed with methanol and then a mixture of 0.880 ammonia:methanol (1:9). The combined basic fractions were concentrated in vacuo and the resulting residue purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (0.5:2.25:97.5) to afford the title compound (E225). MS (ES+) m/e 478 [M+H]+.

reactant | N-Methyl-6-(8-iodo-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yloxy)-3-pyridinecarboxamide | 1.0 mmol, 423 mg | CNC(=O)C=1C=NC(=CC1)OC1=CC2=C(CCNCC2)C=C1I | C17H18IN3O2
reactant | cyclobutanone | 1.5 mmol, 0.11 ml | C1(CCC1)=O | C4H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
product | 6-[(3-Cyclobutyl-8-iodo-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-N-methyl-3-pyridinecarboxamide | C1(CCC1)N1CCC2=C(CC1)C=C(C(=C2)OC2=CC=C(C=N2)C(=O)NC)I | C21H24IN3O2
